US08466282B2
(3R,5S)-1-(tert-butoxycarbonyl)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-3-carboxylic acid
1-tert-Butyl 3-methyl(3R,5S)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1,3-dicarboxylate (15 g) was dissolved in methanol (150 ml), 4N-aqueous sodium hydroxide solution (250 ml) was added, and the mixture was stirred at 50° C. for 1 hr. The solvent was evaporated under reduced pressure, and the residue was ice-cooled, neutralized with 2N hydrochloric acid, and extracted twice ethyl acetate (500 ml). The extract was washed with brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was dried under reduced pressure to give the object product (15.0 g).

reactant | 1-tert-Butyl 3-methyl(3R,5S)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1,3-dicarboxylate | 15 g | COCCCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@H]2C[C@H](CN(C2)C(=O)OC(C)(C)C)C(=O)OC)CC(C)C | C29H44N4O6
reactant | sodium hydroxide | 250 ml | [OH-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
product | (3R,5S)-1-(tert-butoxycarbonyl)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-3-carboxylic acid | 15.0 g | C(C)(C)(C)OC(=O)N1C[C@@H](C[C@@H](C1)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C=CC=C2)C(=O)O | C28H42N4O6
